US03950339
2-[4-(1,3-Benzodioxol-5-Ylmethylamino)-6-Phenyl-2-Pyrimidinylthio]Acetamidoxime
A mixture of 11.20 g. (0.03 mole) of [4-phenyl-6-(piperonylamino)-2-pyrimidinylthio]acetonitrile, 4.14 g. (0.06 mole) of hydroxylamine hydrochloride and 12.70 g. (0.12 mole) of sodium carbonate in 200 ml of N,N-dimethylformamide was heated on a steam bath for four hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was dissolved in ethyl acetate, diluted with petroleum ether and left at room temperature overnight. The precipitate which formed was collected and recrystallized from a mixture of ethyl acetate-petroleum ether to give 4.8 g. of product, mp. 160°-163°.

reactant | [4-phenyl-6-(piperonylamino)-2-pyrimidinylthio]acetonitrile | 0.03 mole | C1(=CC=CC=C1)C1=NC(=NC(=C1)NCC1=CC=2OCOC2C=C1)SCC#N | C20H16N4O2S
reactant | hydroxylamine hydrochloride | 0.06 mole | Cl.NO
reactant | sodium carbonate | 0.12 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1,3-Benzodioxol-5-Ylmethylamino)-6-Phenyl-2-Pyrimidinylthio]Acetamidoxime | O1COC2=C1C=CC(=C2)CNC2=NC(=NC(=C2)C2=CC=CC=C2)SCC(N)=NO | C20H19N5O3S
